US05506089
A stirring solution of benzaldehyde (44.6 g) and 4-picoline (37.2 g) in acetic acid (24 g) and acetic anhydride (40.8 g) was refluxed for 18 hours. The resultant reaction mixture were cooled, diluted with dichloromethane (300 ml), washed with water and dilute aqueous alkali; and quenched with dilute hydrochloric acid. Precipitate of styrylpyridine hydrochloride (long golden needles) was separated by filtration, washed with methylenechloride, dried and poured into stirred solution of sodium carbonate in water. After 2 hours of stirring white-gray precipitate was filtered, washed with water and dried overnight at 60°-70° C. After recrystallization, 39.6 g. of styrylpyridine were obtained.

reactant | benzaldehyde | 44.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-picoline | 37.2 g | N1=CC=C(C=C1)C | C6H7N
reactant | acetic anhydride | 40.8 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 24 g | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | styrylpyridine | C(=CC1=CC=CC=C1)C1=NC=CC=C1 | C13H11N
